US08022062B2
2-(4-Bromo-2-fluoro-benzyloxy)-tetrahydro-pyran:
Mix under nitrogen atmosphere 4-bromo-2-fluorobenzyl alcohol, (4.1 g, 20 mmol), dihydropyran (2 g, 24 mmol), p-toluenesulfonic acid monohydrate (100 mg, 0.52 mmol), and anhydrous DCM (70 mL). Stir for 16 h at ambient temperature. Dilute with DCM, wash sequentially with saturated aqueous NaHCO3 then brine. Separate the organic layer, dry over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 9:1) to obtain the desired intermediate as a clear oil (4.36 g, 75%). MS (ES+) m/z: 312 (M+Na)+.

reactant | 4-bromo-2-fluorobenzyl alcohol | 20 mmol, 4.1 g | BrC1=CC(=C(CO)C=C1)F | C7H6BrFO
reactant | dihydropyran | 24 mmol, 2 g | O1CCCC=C1 | C5H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid monohydrate | 0.52 mmol, 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-2-fluoro-benzyloxy)-tetrahydro-pyran | 4.36 g, 75% | BrC1=CC(=C(COC2OCCCC2)C=C1)F | C12H14BrFO2
